US07601772B2
The synthesis of 1-methyl-3-5-hexenyl imidazolium chloride (2-C6 mim)
The procedure of Example 1 was repeated with minor changes. 51.0 g of 6-chloro-1-hexene (Aldrich) and 35.3 g of 1-methylimidazole (Aldrich) were added into a 2000 ml three-neck round-bottom flask. The reaction temperature was set from 75 to 80° C. After four hours the milk-like solution transferred into a homogenous solution. The reaction was continued for three days. Then, the product was washed with ethyl acetate five times. After that, it was dried under vacuum for three days.

reactant | 6-chloro-1-hexene | 51.0 g | ClCCCCC=C | C6H11Cl
reactant | 1-methylimidazole | 35.3 g | CN1C=NC=C1 | C4H6N2
product | 1-methyl-3-5-hexenyl imidazolium chloride | [Cl-].C[N+]1=CN(C=C1)CCCCC=C | InChI=1S/C10H17N2.ClH/c1-3-4-5-6-7-12-9-8-11(2)10-12;/h3,8-10H,1,4-7H2,2H3;1H/q+1;/p-1
